US06313153B1
To isopropanol (200 ml), 40% aqueous methylamine solution (133 ml) was added and stirred under ice-cooling. 2-Bromo-1-(3,4-dimethoxyphenyl)ethanone (8.47 g, 33 mmol) was dissolved in isopropanol (10 ml) and dichloromethane (10 ml) and dropwise added to the reaction mixture over 1 hour. After the dropwise addition, the mixture was stirred for 15 minutes under ice-cooling. The solvent in the reaction mixture was distilled out at room temperature under reduced pressure and the precipitated crystal was filtered to yield 1-(3,4-dimethoxyphenyl)-2-(methylamino)ethanone hydrobromide (6.36 g, 67%).

reactant | methylamine | 133 ml | CN | CH5N
reactant | 2-Bromo-1-(3,4-dimethoxyphenyl)ethanone | 33 mmol, 8.47 g | BrCC(=O)C1=CC(=C(C=C1)OC)OC | C10H11BrO3
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-(3,4-dimethoxyphenyl)-2-(methylamino)ethanone hydrobromide | 6.36 g, 67% | Br.COC=1C=C(C=CC1OC)C(CNC)=O | InChI=1S/C11H15NO3.BrH/c1-12-7-9(13)8-4-5-10(14-2)11(6-8)15-3;/h4-6,12H,7H2,1-3H3;1H
